US08193351B2
Step 4: Methyl 2-methoxycarbonylmethyl-4-aminobenzoate
Methyl 2-methoxycarbonylmethyl-4-nitrobenzoate (1.74 g, 6.87 mmol) was dissolved in a mixed solvent of ethyl acetate and methanol under nitrogen atmosphere, and then 10% palladium ddcarbon (30 w/w %) was added thereto. After replacing nitrogen gas with hydrogen gas, the reaction solution was stirred at room temperature overnight. The palladium catalyst was removed by Celite filtration, followed by washing with ethyl acetate. The filtrate and washing solution were combined together, and concentrated under reduced pressure to give the title compound (1.30 g, 84%).

reactant | Methyl 2-methoxycarbonylmethyl-4-nitrobenzoate | 6.87 mmol, 1.74 g | COC(=O)CC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C11H11NO6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | Methyl 2-methoxycarbonylmethyl-4-aminobenzoate | 1.30 g, 84% | COC(=O)CC1=C(C(=O)OC)C=CC(=C1)N | C11H13NO4
